US04278669
Ten (10) g of 6α-fluoro-16β-methyl-17α,21-diacetoxypregna-1,4,9(11)-triene-3,20-dione in 110 ml of dioxane (A.R.) plus 2.2 mls of a solution of 4.4 ml 70% HClO4 in 200 mls of water, is treated with 4 g of dibromohydantoin in the dark at R.T. for a period of one hour or when TLC using 50% ethyl acetate/50% hexane shows the reaction to be complete. The reaction mixture is precipitated in 2 l of water, stirred for 10 minutes and the crystalline precipitate collected by filtration, washed with water, and air dried to give 11.4 g of 6α-fluoro-9α-bromo-11β-hydroxy-16β-methyl-17α,21-diacetoxypregna-1,4-diene-3,20-dione.

reactant | 6α-fluoro-16β-methyl-17α,21-diacetoxypregna-1,4,9(11)-triene-3,20-dione | F[C@H]1C[C@H]2[C@@H]3C[C@@H]([C@](C(COC(C)=O)=O)([C@]3(CC=C2[C@]2(C=CC(C=C12)=O)C)C)OC(C)=O)C | C26H31FO6
reactant | dibromohydantoin | 4 g | BrC1(C(NC(N1)=O)=O)Br | C3H2Br2N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 110 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 mls | O | H2O
product | 6α-fluoro-9α-bromo-11β-hydroxy-16β-methyl-17α,21-diacetoxypregna-1,4-diene-3,20-dione | 11.4 g | F[C@H]1C[C@H]2[C@@H]3C[C@@H]([C@](C(COC(C)=O)=O)([C@]3(C[C@@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)Br)O)C)OC(C)=O)C | C26H32BrFO7
